US08809372B2
To a solution of 2-(4-fluorophenyl)thiazole-5-carbaldehyde (500 mg, 2.41 mmol) in THF (25 mL) was added 3M methyl magnesium bromide in ether (1.61 mL, 4.83 mmol) slowly at 0° C. The reaction mixture stirred for 1 hour at 0° C. and then at room temperature for about 1 hour. The reaction mixture was quenched with saturated NH4Cl solution (25 mL), extracted with ethyl acetate (3×150 mL), the organic layer was dried over Na2SO4 and concentrated under reduced pressure to obtain crude product. The crude product was purified by flash chromatography (100-200μ; 30% ethyl acetate in hexane) to afford 1-(2-(4-fluorophenyl)thiazol-5-yl)ethanol as light yellow solid (420 mg, 78% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.93 (t, 2H), 7.67 (s, 1H), 7.30 (t, 2H), 5.71 (d, 1H), 5.01 (t, 1H), 1.45 (d, 3H); LC-MS m/z calculated for [M+H]+ 224.05, found 224.4

reactant | 2-(4-fluorophenyl)thiazole-5-carbaldehyde | 2.41 mmol, 500 mg | FC1=CC=C(C=C1)C=1SC(=CN1)C=O | C10H6FNOS
reactant | methyl magnesium bromide | 3M | C[Mg]Br
reactant | ether | 4.83 mmol, 1.61 mL | CCOCC | C4H10O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2-(4-fluorophenyl)thiazol-5-yl)ethanol | 420 mg, 78% yield | FC1=CC=C(C=C1)C=1SC(=CN1)C(C)O | C11H10FNOS
